US08466186B2
(c) N-(4-Chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide
1,1′-Thiocarbonyldi-2-pyridone (2.12 g, 9.1 mmol) was added to a mixture of N-(3-amino-4-chlorobenzyl)-2,2-dimethyl-propionamide (2.00 g, 8.3 mmol) and DCM (60 mL) and stirred at rt for 1.5 h. The mixture was filtered over silica gel. The organic layer was concentrated to give the sub-title compound.

reactant | 1,1′-Thiocarbonyldi-2-pyridone | 9.1 mmol, 2.12 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | N-(3-amino-4-chlorobenzyl)-2,2-dimethyl-propionamide | 8.3 mmol, 2.00 g | NC=1C=C(CNC(C(C)(C)C)=O)C=CC1Cl | C12H17ClN2O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)N=C=S | C13H15ClN2OS
